US06956050B2
STEP 3. 4-chloro-N-{[(2-{4-[2-ethyl-4-(2-pyridinyl)-1H-imidazol-1-yl]phenyl}ethyl)amino]carbonyl}benzenesulfonamide
The title compound was prepared according to the procedure described in step 2 of Example 18 from phenyl 2-{4-[2-ethyl-4-(2-pyridinyl)-1H-imidazol-1-yl]phenyl}ethylcarbamate and 4-chlorobenzenesulfonamide. MS (ESI) m/z 510 [M+H]+, 508 [M−H]−, 1H-NMR (CDCl3) □1.17 (3H, t, J=7.3 Hz), 2.65 (2H, q, J=7.7 Hz), 2.80-2.88 (2H, m), 3.42-3.55 (2H, m), 6.78 (1H, br), 7.15-7.28 (4H, m),7.42 (2H, d, J=8.4 Hz), 7.58 (1H, s), 7.71 (1H, t, J=6.0 Hz), 7.80-7.89 (3H, m), 8.51 (1H, d, J=6.0 Hz).

reactant | phenyl 2-{4-[2-ethyl-4-(2-pyridinyl)-1H-imidazol-1-yl]phenyl}ethylcarbamate | C(C)C=1N(C=C(N1)C1=NC=CC=C1)C1=CC=C(C=C1)CCNC(OC1=CC=CC=C1)=O | C25H24N4O2
reactant | 4-chlorobenzenesulfonamide | ClC1=CC=C(C=C1)S(=O)(=O)N | C6H6ClNO2S
product | 4-chloro-N-{[(2-{4-[2-ethyl-4-(2-pyridinyl)-1H-imidazol-1-yl]phenyl}ethyl)amino]carbonyl}benzenesulfonamide | ClC1=CC=C(C=C1)S(=O)(=O)NC(=O)NCCC1=CC=C(C=C1)N1C(=NC(=C1)C1=NC=CC=C1)CC | C25H24ClN5O3S
